US07534805B2
21.3) 4-[4-(4-fluorophenoxy)phenyl]-5-methyl-2-(phenoxymethyl)-1H-imidazole
620 mg of 2-phenoxyethanimidamide hydrochloride (0.00333 mol) are desalified in dichloromethane by the action of a 3N sodium hydroxide solution. After decantation and extraction of the aqueous phase by dichloromethane, the organic phase is dried over sodium sulphate then evaporated to dryness. The white powder obtained is solubilized in dimethylformamide (30 ml). 275 mg of 2-bromo-1-[4-(4-fluorophenoxy)phenyl]propan-1-one (0.000851 mol) is added. The mixture is heated at 50° C. for 20 hours then returned to 23° C. before adding 25 ml of water and 30 ml of ethyl acetate. After extraction with ethyl acetate, the organic phase is dried over sodium sulphate then evaporated in a rotary evaporator under vacuum. The residue obtained is adsorbed on silica then purified by chromatography on a Biotage-type silica column (eluent: ethyl acetate-heptane: 2-8). A pale yellow-coloured foam is obtained.

reactant | 2-phenoxyethanimidamide hydrochloride | 0.00333 mol, 620 mg | Cl.O(C1=CC=CC=C1)CC(N)=N
reactant | sodium hydroxide | 3N | [OH-].[Na+]
reactant | 2-bromo-1-[4-(4-fluorophenoxy)phenyl]propan-1-one | 0.000851 mol, 275 mg | BrC(C(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C | C15H12BrFO2
reactant | water | 25 ml | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 4-[4-(4-fluorophenoxy)phenyl]-5-methyl-2-(phenoxymethyl)-1H-imidazole | FC1=CC=C(OC2=CC=C(C=C2)C=2N=C(NC2C)COC2=CC=CC=C2)C=C1 | C23H19FN2O2
